US07547691B2
2-{2-[3-(2,6-Dimethylpiperazin-1-yl)-propylamino]-5-methylpyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid cyclopropylamide
Using the method of 2-{5-chloro-2-[3-(2,6-cis-dimethylpiperazin-1-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid cyclopropylamide, the title compound is synthesized from 2-(2-chloro-5-methylpyrimidin-4-yl)-benzo[b]thiophene-4-carboxylic acid cyclopropylamide and 3-(4-benzhydryl-2,6-cis-dimethylpiperazin-1-yl)-propylamine as a yellow solid. ES+(m/z) 479 [M+H].

reactant | 2-{5-chloro-2-[3-(2,6-cis-dimethylpiperazin-1-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid cyclopropylamide | C1(CC1)NC(=O)C1=CC=CC=2SC(=CC21)C2=NC(=NC=C2Cl)NCCCN2[C@H](CNC[C@H]2C)C | C25H31ClN6OS
reactant | 2-(2-chloro-5-methylpyrimidin-4-yl)-benzo[b]thiophene-4-carboxylic acid cyclopropylamide | C1(CC1)NC(=O)C1=CC=CC=2SC(=CC21)C2=NC(=NC=C2C)Cl | C17H14ClN3OS
reactant | 3-(4-benzhydryl-2,6-cis-dimethylpiperazin-1-yl)-propylamine | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1C[C@@H](N([C@@H](C1)C)CCCN)C | C22H31N3
product | 2-{2-[3-(2,6-Dimethylpiperazin-1-yl)-propylamino]-5-methylpyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid cyclopropylamide | C1(CC1)NC(=O)C1=CC=CC=2SC(=CC21)C2=NC(=NC=C2C)NCCCN2C(CNCC2C)C | C26H34N6OS
